US08207333B2
Preparation of Solid Rosuvastatin Free Acid
Rosuvastatin tert-butyl ester (27.0 g, 50.2 mmol) is dissolved in 225 mL of a 4:1 mixture of THF/water. The clear solution is warmed to 30° C. and 8.0 M NaOH (6.75 mL, 54.0 mmol) is added portionwise. The reaction mixture is stirred at 30° C. for 2 hours giving a clear yellow solution. Then THF is removed completely under the reduced pressure (20 mbar) at 40° C. The remaining aqueous solution is diluted with water to 225 mL and washed with AcOEt (3×90 mL). To a vigorously stirring solution of sodium rosuvastatinate is added dropwise HCl 37% (4.2 mL, 50.2 mmol) at ambient temperature. The obtained white emulsion of a free acid is extracted with AcOEt (150 mL). After separation from the organic layer aqueous phase is additionaly extracted with AcOEt (2×50 mL). Organic layers are combined and washed with water (3×30 mL). Then AcOEt is removed under reduced pressure (20 mbar) at 40° C. The residue is dissolved in a minimal amount of acetonitrile (MeCN) and the solvent is rapidly evaporated under reduced pressure (20 mbar) at 40° C. to give 25.48 g of the solid residue of free rosuvastatin acid.

reactant | Rosuvastatin tert-butyl ester | 50.2 mmol, 27.0 g | CC(C)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O)C2=CC=C(C=C2)F)N(C)S(=O)(=O)C | C26H36FN3O6S
reactant | NaOH | 54.0 mmol, 8.0 M, 6.75 mL | [OH-].[Na+]
reactant | sodium | [Na] | Na
reactant | HCl | 50.2 mmol, 4.2 mL | Cl | ClH
solvent | THF water | C1CCOC1.O
product | Rosuvastatin | 25.48 g | CC(C)C1=C(C(=NC(=N1)N(C)S(=O)(=O)C)C=2C=CC(=CC2)F)/C=C/[C@H](C[C@H](CC(=O)O)O)O | C22H28FN3O6S
